US09315630B2
2-Mesitylbenzimidazole was synthesized by dissolving 1.5 g 1,2-phenylene diamine (14 mmol) in 40 g of PPA at 120° C. To this solution, 2.1 g of 2,4,6-trimethylbenzoic acid (13 mmol) was added and the temperature was increased to 150° C. After 16 h the solution was cooled to 60° C. and poured into water forming an off-white precipitate. The precipitate was separated by filtration and washed thoroughly with water, yielding 2.6 g of light brown powder (85% yield).

reactant | 1,2-phenylene diamine | 14 mmol, 1.5 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | 2,4,6-trimethylbenzoic acid | 13 mmol, 2.1 g | CC1=C(C(=O)O)C(=CC(=C1)C)C | C10H12O2
solvent | water | O | H2O
product | 2-Mesitylbenzimidazole | C1(=C(C(=CC(=C1)C)C)C=1NC2=C(N1)C=CC=C2)C | C16H16N2
